US06455550B1
Preparation of of 4-Amino-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine Methyl Ester
To a mixture of of N-[(1,1-dimethylethoxy)carbonyl]-4-nitro-L-phenylalanine methyl ester (222 mmol, 72 g), zinc dust (˜325 mesh, 2.2 mol, 145.2 g, 10 equiv) and ammonium chloride (3.3 mol, 178.1 g, 15 equiv) was added methanol (1 L) and water (500 mL) at room temperature. After addition of water, an exothermic reaction ensued and the internal temperature rose to 45 to 50° C. The suspension was stirred for 30 min to 1 h at room temperature, at which time TLC analysis of the mixture indicated the absence of starting material and the reaction mixture was filtered through a pad of celite and the filtered cake was washed with methanol (1 L) and water (500 mL). Concentration to remove most of the methanol afforded white solid which was collected by filtration and washed with water. After air drying, 65.5 g of a white solid, mp 86-89° C. was obtained. 1H-NMR (DMSO-d6) (400 MHz) δ 6.9 (d, 2H, J=20 Hz), 6.62 (d, 2H, J=20 Hz), 7.39 (d, 1H, J=22 Hz), 4.26-4.28 (m, 1H), 3.68 (s, 3H), 2.96-3.19 (m, 2H), 1.25 (s, 9H). HR MS: Obs. mass, 294.1614. Calcd. mass, 294.1621 (M+).

reactant | N-[(1,1-dimethylethoxy)carbonyl]-4-nitro-L-phenylalanine methyl ester | 222 mmol, 72 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H20N2O6
reactant | ammonium chloride | 3.3 mol, 178.1 g, 15 equiv | [Cl-].[NH4+]
reactant | methanol | 1 L | CO | CH4O
catalyst | zinc | 2.2 mol, 145.2 g, 10 equiv | [Zn] | Zn
solvent | water | O | H2O
solvent | water | 500 mL | O | H2O
product | 4-Amino-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine Methyl Ester | 65.5 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)N)=O | C15H22N2O4
